US08802664B2
To a solution of diazophenylacetic acid ethyl ester (2.55 g) in 1,2-dichloroethane is added 4-hydroxypiperidine-1-carboxylic acid tert-butyl ester (5.4 g). The flask is evacuated and filled with argon. Rhodium(II) acetate-dimer (60 mg) is added to the reaction mixture. Evolution of nitrogen occurs until the end of the reaction (about 1 hour). The solvent is removed under reduced pressure. The residue is purified by chromatography (gradient heptane/ethyl acetate from 95/5 to 80/20) to give 4-(ethoxy-carbonylphenylmethoxy)piperidine-1-carboxylic acid tert-butyl ester.

reactant | diazophenylacetic acid ethyl ester | 2.55 g | C(C)OC(C(C1=CC=CC=C1)=[N+]=[N-])=O | C10H10N2O2
reactant | 4-hydroxypiperidine-1-carboxylic acid tert-butyl ester | 5.4 g | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 4-(ethoxy-carbonylphenylmethoxy)piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)OC(C1=CC=CC=C1)C(=O)OCC | C20H29NO5
